US07241721B2
To 2.5 g 2-amino-4′-bromo-biphenyl (WO0264562) in piperidine (25 ml) under nitrogen were added in sequence CuI (0.1 g), bis(triphenylphosphino)palladium dichloride (0.35 g) and trimethylsilylacetylene (2.8 ml). The mixture was stirred for 22 hours at room temperature and for a further 26 hours at 60° C. After cooling the reaction mixture was diluted with water and extracted with ethylacetate. Then the organic phase was washed with water and dried over sodium sulfate. After evaporation of the solvents in vacuum the mixture was chromatographed on silica gel (hexane:ethylacetate 9:1) to yield 2- amino-4′-(trimethylsilyl)ethinyl-biphenyl (2 g) (Compound No.12.02).

reactant | 2-amino-4′-bromo-biphenyl | 2.5 g | NC1=C(C=CC=C1)C1=CC=C(C=C1)Br | C12H10BrN
reactant | trimethylsilylacetylene | 2.8 ml | C[Si](C)(C)C#C | C5H10Si
solvent | piperidine | 25 ml | N1CCCCC1 | C5H11N
solvent | water | O | H2O
catalyst | CuI | 0.1 g | [Cu]I
catalyst | bis(triphenylphosphino)palladium dichloride | 0.35 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(Cl)Cl
product | 2- amino-4′-(trimethylsilyl)ethinyl-biphenyl | 2 g | NC1=C(C=CC=C1)C1=CC=C(C=C1)C#C[Si](C)(C)C | C17H19NSi
